US04356183
(4R)-3-(S-Benzoyl-3-mercaptopropanoyl)-2-(2-thienyl)-4-thiazolidinecarboxylic acid (Compound 88)
10.8 g of (4R)-2-(2-thienyl)-4-thiazolidinecarboxylic acid and 10.6 g of sodium carbonate are dissolved in 100 ml of water and 8.6 g of 3-bromopropanoyl chloride is added dropwise while stirring under ice-cooling. After the addition, the mixture is stirred under ice-cooling for 2 hours. To this reaction solution, 8.8 g of potassium thiobenzoate is added and stirred at room temperature for 1 hour. The solution is acidified with dilute hydrochloric acid and the produced oil is extracted with ethyl acetate. The ethyl acetate layer is washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the titled compound, yield 11.6 g (57%), mp. 141°-143° C. (benzene), [α]D25 +107.7° (c=1.0, methanol).

reactant | (4R)-2-(2-thienyl)-4-thiazolidinecarboxylic acid | 10.8 g | S1C(=CC=C1)C1SC[C@H](N1)C(=O)O | C8H9NO2S2
reactant | sodium carbonate | 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-bromopropanoyl chloride | 8.6 g | BrCCC(=O)Cl | C3H4BrClO
reactant | potassium thiobenzoate | 8.8 g | C(C1=CC=CC=C1)(=S)[O-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | (4R)-3-(S-Benzoyl-3-mercaptopropanoyl)-2-(2-thienyl)-4-thiazolidinecarboxylic acid | C(C1=CC=CC=C1)(=O)SCCC(=O)N1C(SC[C@H]1C(=O)O)C=1SC=CC1 | C18H17NO4S3
